US07563813B2
To ethyl 5-bromo-4-(bromomethyl)-2-{[(2-imino-4-oxo-1,3-thiazolidin-5-yl) acetyl]amino}thiophene-3-carboxylate (25 mg, 0.05 mmol) in N,N dimethyl formaide (1 mL) was added aniline (10 mg, 0.11 mmol). The reaction mixture was stirred at room temperature for 16 h. Then the reaction mixture was concentrated and purified by reverse phase column to yield ethyl 4-(anilinomethyl)-5-bromo-2-{[(2-imino-4-oxo-1,3-thiazolidin-5-yl)acetyl]amino}thiophene-3-carboxylate (5.0 mg, 20% yield).

reactant | ethyl 5-bromo-4-(bromomethyl)-2-{[(2-imino-4-oxo-1,3-thiazolidin-5-yl) acetyl]amino}thiophene-3-carboxylate | 0.05 mmol, 25 mg | BrC1=C(C(=C(S1)NC(CC1C(NC(S1)=N)=O)=O)C(=O)OCC)CBr | C13H13Br2N3O4S2
reactant | aniline | 0.11 mmol, 10 mg | NC1=CC=CC=C1 | C6H7N
product | ethyl 4-(anilinomethyl)-5-bromo-2-{[(2-imino-4-oxo-1,3-thiazolidin-5-yl)acetyl]amino}thiophene-3-carboxylate | 5.0 mg, 20% yield | N(C1=CC=CC=C1)CC=1C(=C(SC1Br)NC(CC1C(NC(S1)=N)=O)=O)C(=O)OCC | C19H19BrN4O4S2
